US04215220
Reaction of 1-[3-(2,4,5-trichloroanilino)-2-hydroxypropyl]-imidazole with p-bromobenzyl chloride yields 1-[2-(4-bromobenzyloxy)-3-(2,4,5-trichloroanilino)-propyl]-imidazole.

reactant | 1-[3-(2,4,5-trichloroanilino)-2-hydroxypropyl]-imidazole | ClC1=C(NCC(CN2C=NC=C2)O)C=C(C(=C1)Cl)Cl | C12H12Cl3N3O
reactant | p-bromobenzyl chloride | BrC1=CC=C(CCl)C=C1 | C7H6BrCl
product | 1-[2-(4-bromobenzyloxy)-3-(2,4,5-trichloroanilino)-propyl]-imidazole | BrC1=CC=C(COC(CN2C=NC=C2)CNC2=C(C=C(C(=C2)Cl)Cl)Cl)C=C1 | C19H17BrCl3N3O
